US08865726B2
(S)-4-Phenyl-3-(pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one (0.423 g, 77%) was prepared by the procedure described in Example 1, Step 4, substituting (S)-4-phenyloxazolidin-2-one (0.638 g, 3.91 mmol) for (S)-4-isopropyloxazolidin-2-one and 5-chloropyrazolo[1,5-a]pyrimidine (0.300 g, 1.95 mmol) for 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine.

reactant | (S)-4-isopropyloxazolidin-2-one | C(C)(C)[C@@H]1NC(OC1)=O | C6H11NO2
reactant | 5-chloropyrazolo[1,5-a]pyrimidine | 1.95 mmol, 0.300 g | ClC1=NC=2N(C=C1)N=CC2 | C6H4ClN3
reactant | 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine | BrC=1C=NN2C1N=C(C=C2)Cl | C6H3BrClN3
product | (S)-4-Phenyl-3-(pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | 0.423 g, 77% | C1(=CC=CC=C1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2 | C15H12N4O2
